US04107307
3-[ 2-(Methoxymethyl)-4-imidazolyl]methylene carbazic acid ethyl ester
A 19.60 gm. portion of 2-(methoxymethyl)-4-imidazolecarboxaldehyde and 16.02 gm. of ethyl carbazate are reacted as described in Example 32 giving the desired product, m.p. 186°-190° C.

reactant | 2-(methoxymethyl)-4-imidazolecarboxaldehyde | COCC=1NC=C(N1)C=O | C6H8N2O2
reactant | ethyl carbazate | C(NN)(=O)OCC | C3H8N2O2
product | 3-[ 2-(Methoxymethyl)-4-imidazolyl]methylene carbazic acid ethyl ester | C(C)OC(NN=CC=1N=C(NC1)COC)=O | C9H14N4O3
